US09416138B2
N-{(1S)-1-[4-({[(3S)-2,3-Dihydro[1,4]dioxino[2,3-b]pyridin-3-ylmethyl]amino}methyl)phenyl]-2,2,2-trifluoroethyl}methanesulfonamide hydrochloride
Combine [(3S)-2,3-dihydro-[1,4]dioxino[2,3-b]pyridin-3-YL]methanamine (9.71 g, 58.4 mmol), N-[(1S)-2,2,2-trifluoro-1-(4-formylphenyl)-ethyl]-methanesulfonamide (16.43 g, 58.4 mmol) and MeOH (292 mL). Add 4 Å Molecular Sieves (30 mL) and stir the mixture at ambient temperature under a nitrogen atmosphere for 1 h. Add sodium borohydride (8.84 g, 233.7 mmol) portionwise and stir at ambient temperature for 10 minutes, monitoring the reaction via MS and 1H NMR. Slowly add H2O to quench the reaction and filter through Celite®. Collect the filtrate; remove solvents under reduced pressure; and purify via flash column chromatography using a gradient of 0-100% of (5% (2N NH3/MeOH) in DCM) in (5% MeOH/DCM) to elute the product. Combine the product fractions, and remove solvents under reduced pressure to afford the free base as a residue. Dissolve the residue in DCM, and add HCl (1N in Et2O; 87.7 mL, 87.7 mmol) while stirring. Stir for 10 minutes after the addition is complete, then remove the solvents under reduced pressure to provide the title product (12.9 g, 47.3%) as a white solid. MS (m/z): 432 (M-Cl).

reactant | [(3S)-2,3-dihydro-[1,4]dioxino[2,3-b]pyridin-3-YL]methanamine | 58.4 mmol, 9.71 g | O1C[C@@H](OC2=NC=CC=C21)CN | C8H10N2O2
reactant | N-[(1S)-2,2,2-trifluoro-1-(4-formylphenyl)-ethyl]-methanesulfonamide | 58.4 mmol, 16.43 g | FC([C@H](C1=CC=C(C=C1)C=O)NS(=O)(=O)C)(F)F | C10H10F3NO3S
reactant | sodium borohydride | 233.7 mmol, 8.84 g | [BH4-].[Na+]
reactant | HCl | 87.7 mmol, 1N, 87.7 mL | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | 292 mL | CO | CH4O
product | N-{(1S)-1-[4-({[(3S)-2,3-Dihydro[1,4]dioxino[2,3-b]pyridin-3-ylmethyl]amino}methyl)phenyl]-2,2,2-trifluoroethyl}methanesulfonamide hydrochloride | 12.9 g, 47.3% | Cl.O1C[C@@H](OC2=NC=CC=C21)CNCC2=CC=C(C=C2)[C@@H](C(F)(F)F)NS(=O)(=O)C | InChI=1S/C18H20F3N3O4S.ClH/c1-29(25,26)24-16(18(19,20)21)13-6-4-12(5-7-13)9-22-10-14-11-27-15-3-2-8-23-17(15)28-14;/h2-8,14,16,22,24H,9-11H2,1H3;1H/t14-,16-;/m0./s1
